### PR TITLE
[Merged by Bors] - Feat(AlgebraicGeometry/FromSpecStalk): Given a scheme `X` and a point `x : X`, the canonical scheme morphism from `Spec(O_x)` to `X`.

### PR DESCRIPTION
**Pull request by FMLJohn**
In this pull request, we define:
Given a scheme `X` and a point `x : X.carrier`, `AlgebraicGeometry.Scheme.fromSpecStalk X x` is the canonical scheme morphism from `Spec(O_x)` to `X`.

This is helpful for constructing the canonical map from the spectrum of the residue field of a point to the original scheme.

### CODE REVIEW

**Review by kbuzzard — COMMENTED** [review]
So do we have the map Spec(stalk at x) -> X? We should surely make this first?

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean [hunk 1]
```diff
@@ -0,0 +1,147 @@
...
+    IsField (X.ResidueField x) :=
+  Semifield.toIsField (LocalRing.ResidueField (X.stalk x))
+
+noncomputable instance {X : LocallyRingedSpace} (x : X.toTopCat) : Field (X.ResidueField x) :=
+  LocalRing.ResidueField.field (X.stalk x)
+
+/--
+`AlgebraicGeometry.LocallyRingedSpace.StalkToResidueFieldSpecGlobalSectionHom x` is defined as the
+composition of `AlgebraicGeometry.StructureSheaf.toOpen (LocalRing.ResidueField (X.stalk x)) ⊤` and
+`LocalRing.residue (X.stalk x)`.
```
[the remark this answers is not in the document]
Comment (FMLJohn) [reply Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean:50]: I think yes. It is better for us to first construct the morphism from Spec(O_x) to X. Today, apart from the final proof for the fact that the induced stalk map is a local ring homomorphism, I managed to construct everything else necessary for formalising the morphism from Spec(O_x) to X. I found that we could actually delete the definition `AlgebraicGeometry.LocallyRingedSpace.StalkToResidueFieldSpecGlobalSectionHom`.

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean [hunk 2]
```diff
@@ -0,0 +1,147 @@
...
+
+namespace AlgebraicGeometry
+
+namespace LocallyRingedSpace
+
+/--
+Given a locally ringed space `X` and a point `x : X.toTopCat`, the residue field of `x` is the
+residue field of the stalk at `x`.
+-/
+noncomputable def ResidueField {X : LocallyRingedSpace} (x : X.toTopCat) : CommRingCat where
```
[the remark this answers is not in the document]
Comment (FMLJohn) [reply Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean:36]: Yes! `x : X` is enough!

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (FMLJohn) [reply Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean]: In my new push, I have changed everything into the foundations for the formalisation of the morphism from Spec(O_x) to X.

File: Mathlib/AlgebraicGeometry/FromSpecStalk.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+    (h : op U ⟶ op V) (hU : IsAffineOpen U) (hV : IsAffineOpen V) :
+    Spec.map (X.presheaf.map h) ≫ hU.fromSpec = hV.fromSpec := by
+  have : IsAffine (X.restrictFunctor.obj U).left := hU
+  haveI : IsAffine _ := hV
+  conv_rhs =>
+    rw [fromSpec, ← X.restrictFunctor_map_ofRestrict h.unop, ← Scheme.isoSpec_inv_naturality_assoc,
+      ← Spec.map_comp_assoc, Scheme.restrictFunctor_map_app, ← Functor.map_comp]
+  rw [fromSpec, ← Spec.map_comp_assoc, ← Functor.map_comp]
+  congr 1
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/FromSpecStalk.lean:45]: These should go in `AffineScheme.lean`. The third one could be a simp lemma.

File: Mathlib/AlgebraicGeometry/FromSpecStalk.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+/--
+A morphism from Spec(O_`x`) to `X`, which is defined with the help of an affine open
+neighborhood `U` of `x`.
+`IsAffineOpen.FromSpec hU hxU = (Scheme.Spec.map (X.presheaf.germ ⟨x, hxU⟩).op) ≫ hU.fromSpec`.
+-/
+noncomputable def IsAffineOpen.FromSpecStalk {X : Scheme} {U : TopologicalSpace.Opens X.carrier}
+    (hU : IsAffineOpen U) {x : X.carrier} (hxU : x ∈ U) :
+    Scheme.Spec.obj (op (X.stalk x)) ⟶ X :=
+  (Scheme.Spec.map (X.presheaf.germ ⟨x, hxU⟩).op) ≫ hU.fromSpec
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/FromSpecStalk.lean:54]:
```suggestion
noncomputable def IsAffineOpen.fromSpecStalk {X : Scheme} {U : TopologicalSpace.Opens X}
    (hU : IsAffineOpen U) {x : X} (hxU : x ∈ U) :
    Spec (X.stalk x)) ⟶ X :=
  Spec.map (X.presheaf.germ ⟨x, hxU⟩) ≫ hU.fromSpec
```

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/FromSpecStalk.lean:54]: (same below)

**Comment by kbuzzard** [comment]
This looks fine to me, I've left some comments which are mostly about docstrings.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 5]
```diff
@@ -276,6 +287,17 @@ theorem range_fromSpec :
 @[simp]
 theorem opensRange_fromSpec : Scheme.Hom.opensRange hU.fromSpec = U := Opens.ext (range_fromSpec hU)
 
+@[reassoc, simp]
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:290]:
```suggestion
@[simp, reassoc]
```
This adds `simp` to the assoc lemma as well.

File: Mathlib/AlgebraicGeometry/FromSpecStalk.lean [hunk 6]
```diff
@@ -0,0 +1,62 @@
...
+
+/--
+The canonical scheme morphism from Spec(O_`x`) to `X`.
+`Scheme.fromSpecStalk X x` is defined as:
+`(isAffineOpen_opensRange (X.affineOpenCover.map x)).fromSpecStalk (X.affineOpenCover.covers x)`
+-/
+noncomputable def Scheme.FromSpecStalk (X : Scheme) (x : X) :
+    Scheme.Spec.obj (op (X.stalk x)) ⟶ X :=
+  (isAffineOpen_opensRange (X.affineOpenCover.map x)).fromSpecStalk (X.affineOpenCover.covers x)
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/FromSpecStalk.lean:61]: Can you provide a simp lemma `hU.fromSpecStalk hxU = X.fromSpecStalk x`?

File: Mathlib/AlgebraicGeometry/FromSpecStalk.lean [hunk 7]
```diff
@@ -0,0 +1,62 @@
...
+    erw [← Scheme.Spec_map (X.presheaf.map _).op, ← Scheme.Spec_map (X.presheaf.germ ⟨x, h₂⟩).op]
+    rw [← Functor.map_comp_assoc, ← op_comp, TopCat.Presheaf.germ_res, Scheme.Spec_map,
+      Quiver.Hom.unop_op]
+
+/--
+The canonical scheme morphism from Spec(O_`x`) to `X`.
+`Scheme.fromSpecStalk X x` is defined as:
+`(isAffineOpen_opensRange (X.affineOpenCover.map x)).fromSpecStalk (X.affineOpenCover.covers x)`
+-/
+noncomputable def Scheme.FromSpecStalk (X : Scheme) (x : X) :
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/FromSpecStalk.lean:58]:
```suggestion
noncomputable def Scheme.fromSpecStalk (X : Scheme) (x : X) :
```

**Review by erdOne — COMMENTED** [review]
Also, I think the file could be called `Stalk.lean` and contain anything related to stalks.

File: Mathlib/AlgebraicGeometry/FromSpecStalk.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/FromSpecStalk.lean:61]: Also, it would be nice to show that this commutes with `stalkSpecializes` or `PresheafedSpace.stalkMap`, but they can come in a later PR.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 8]
```diff
@@ -276,6 +287,17 @@ theorem range_fromSpec :
 @[simp]
 theorem opensRange_fromSpec : Scheme.Hom.opensRange hU.fromSpec = U := Opens.ext (range_fromSpec hU)
 
+@[simp, reassoc]
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:290]: According to [this post](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/reassoc.20and.20simp/near/449310703) this should be `@[reassoc (attr := simp)]`, and there is an explanation there about how to check that this works.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
